US04877899
To a mixture of (E)-3-fluoro-3-hexylsulfinyl-2-propenol (0.21 g, 1.0 mmol) and 2 ml of pyridine cooled to -30° is added through syringe acetic-formic anhydride (0.4 ml). The mixture is allowed to warm to 10° over a period of 1 hour. It is then diluted with water, extracted with hexane, washed with aqueous 2N H2S04, then water, then aqueous NaHCO3, finally brine and is dried. The product is purified by prep. TLC to give (E)-3-fluoro-3-hexylsulfinyl-2-propenyl formate (cpd. 3, Table A).

reactant | (E)-3-fluoro-3-hexylsulfinyl-2-propenol | 1.0 mmol, 0.21 g | F\C(=C/CO)\S(=O)CCCCCC | C9H17FO2S
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic-formic anhydride | 0.4 ml | C(=O)OC(C)=O | C3H4O3
solvent | water | O | H2O
product | (E)-3-fluoro-3-hexylsulfinyl-2-propenyl formate | C(=O)OC\C=C(\S(=O)CCCCCC)/F | C10H17FO3S
